US06762320B2
N-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-malonamide
Prepared in analogy to example 3 from N-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-malonamic acid methyl ester and 7M ammonia in methanol. Yield=71%. Colorless solid. MS: m/e=333.0 (M++H).

reactant | N-[4-(3-fluoro-benzyloxy)-3-methoxy-phenyl]-malonamic acid methyl ester | COC(CC(=O)NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)OC)=O | C18H18FNO5
reactant | ammonia | 7M | N | H3N
solvent | methanol | CO | CH4O
product | N-[4-(3-Fluoro-benzyloxy)-3-methoxy-phenyl]-malonamide | Yield=71% | FC=1C=C(COC2=C(C=C(C=C2)NC(CC(=O)N)=O)OC)C=CC1 | C17H17FN2O4
